US06410538B2
Step 2: Synthesis of benzyl (3R)-3-t-butoxycarbonylamino-4-(5-cyano-2-iodophenoxy)butanoate
10.16 g (32.8 mmol) of benzyl (3R)-3-t-butoxycarbonylamino-4-hydroxybutanoate was dissolved in 100 ml of toluene. 10.5 g (42.7 mmol) of 3-hydroxy-4-iodobenzonitrile, 11.2 g (42.7 mmol) of triphenylphosphine and 7.4 g (42.7 mmol) of N,N,N′,N′-tetramethylazodicarboxamide were added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight.

reactant | benzyl (3R)-3-t-butoxycarbonylamino-4-hydroxybutanoate | 32.8 mmol, 10.16 g | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OCC1=CC=CC=C1)CO | C16H23NO5
reactant | 3-hydroxy-4-iodobenzonitrile | 42.7 mmol, 10.5 g | OC=1C=C(C#N)C=CC1I | C7H4INO
reactant | triphenylphosphine | 42.7 mmol, 11.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N,N,N′,N′-tetramethylazodicarboxamide | 42.7 mmol, 7.4 g | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl (3R)-3-t-butoxycarbonylamino-4-(5-cyano-2-iodophenoxy)butanoate | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OCC1=CC=CC=C1)COC1=C(C=CC(=C1)C#N)I | C23H25IN2O5
